US07223766B2
Preparation of 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid methyl ester
To a solution of 2-(5-Chloro-2-fluoro-phenyl)-4-iodo-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidine (500 mg, 1.24 mmol), 4-Amino-nicotinic acid methyl ester (208 mg, 1.37 mmol), Pd(OAc)2 (14 mg, 62.09 μmol) and Rac-BINAP (60 mg, 93.14 μmol) in dry dioxane (10 mL) was added Cs2CO3 (607 mg, 1.86 mmol). The mixture was heated for 12 h at 85° C., cooled and evaporated. The residue was purified by chromatography (CH2Cl2, 0-10% MeOH) to give the desired product (178 mg, 34% yield).

reactant | 2-(5-Chloro-2-fluoro-phenyl)-4-iodo-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidine | 1.24 mmol, 500 mg | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)I)CC(C2)(C)C)F | C15H13ClFIN2
reactant | 4-Amino-nicotinic acid methyl ester | 1.37 mmol, 208 mg | COC(C1=CN=CC=C1N)=O | C7H8N2O2
reactant | Rac-BINAP | 93.14 μmol, 60 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | Cs2CO3 | 1.86 mmol, 607 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 62.09 μmol, 14 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-[2-(5-Chloro-2-fluoro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-nicotinic acid methyl ester | 178 mg, 34% yield | COC(C1=CN=CC=C1NC1=NC(=NC2=C1CC(C2)(C)C)C2=C(C=CC(=C2)Cl)F)=O | C22H20ClFN4O2
